US08486933B2
7-(5-bromo-2-chloropyrimidin-4-yloxy)quinoline
In a 4 mL vial was charged with quinolin-7-ol (0.200 g, 1.378 mmol) and sodium hydride (0.066 g, 1.653 mmol) in N,N-dimethylformamide (13.78 ml) to give a brown solution. The reaction was stirred at room temperature for 30 minutes and then 5-bromo-2,4-dichloropyrimidine (0.176 mL, 1.378 mmol) was added. The mixture was stirred at room temperature overnight. Diluted with 9:1 dichloromethane/methanol; washed with water and brine. The organic layer was dried over magnesium sulfate, filtered, and the solvent was removed under reduced pressure to afford a tan residue. (ESI(+)) m/e 337.7 (M+H)+.

reactant | quinolin-7-ol | 1.378 mmol, 0.200 g | N1=CC=CC2=CC=C(C=C12)O | C9H7NO
reactant | sodium hydride | 1.653 mmol, 0.066 g | [H-].[Na+]
reactant | 5-bromo-2,4-dichloropyrimidine | 1.378 mmol, 0.176 mL | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
solvent | N,N-dimethylformamide | 13.78 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane methanol | ClCCl.CO
product | 7-(5-bromo-2-chloropyrimidin-4-yloxy)quinoline | BrC=1C(=NC(=NC1)Cl)OC1=CC=C2C=CC=NC2=C1 | C13H7BrClN3O
